US04675276
Then, 10 g of 5 methyl-3-methylthio-4-phenyl-1,2,4-triazole thus obtained was mixed with 40 g of methyl iodide and the mixture was heat-refluxed for 4 hours to precipitate crystals, which were collected by filtration and recrystallized from ethanol to provide 1,5-dimethyl-3-methylthio-4-phenyl-1,2,4-triazolium iodide.

reactant | methyl-3-methylthio-4-phenyl-1,2,4-triazole | CC=1N(C(=NN1)SC)C1=CC=CC=C1 | C10H11N3S
reactant | methyl iodide | 40 g | CI | CH3I
product | 1,5-dimethyl-3-methylthio-4-phenyl-1,2,4-triazolium iodide | [I-].C[N+]=1N=C(N(C1C)C1=CC=CC=C1)SC | InChI=1S/C11H14N3S.HI/c1-9-13(2)12-11(15-3)14(9)10-7-5-4-6-8-10;/h4-8H,1-3H3;1H/q+1;/p-1
